US04531013
Solid 3,7-diamino-1,5-dinitronaphthalene (30 g, 0.12 moles) is added portionwise to 125 ml of chilled trifluoroacetic anhydride. The resulting suspension is refluxed for two days, cooled and filtered. The product is dried in vacuo over CaSO4 to afford 47.2 g (89% yield) of 1,5-dinitro-3,7-di(trifluoroacetamido) naphthalene, having a melting point of 350° C. (decomposition). A sample is recrystallized from CH3CN to afford an analytically pure product. The 1H NMR (DMSO -d6) spectrum shows peaks at δ9.30 (2H, d, ArH), 9.05 (2H, d, ArH) and 12.10 (2H, br s, NH). The Ir (KBr) spectrum shows peaks at 3225 (NH), 1730 (C=O), 1610 (C=C), 1550, 1515 (NO2), 1340, 1300, 1275, 1225 (C--F), 1200, 1175, 1125 (NO2), 940, 895, 880, 750 and 725 cm-1. Analysis calculated for C14H6N4O6F6 : C, 38.20; H, 1.37; N, 12.73; F, 25.89. Found: C, 38.33; H, 1.36; N, 12.79; F, 25.75.

reactant | 3,7-diamino-1,5-dinitronaphthalene | 0.12 moles, 30 g | NC=1C=C(C2=CC(=CC(=C2C1)[N+](=O)[O-])N)[N+](=O)[O-] | C10H8N4O4
reactant | trifluoroacetic anhydride | 125 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 1,5-dinitro-3,7-di(trifluoroacetamido) naphthalene | 47.2 g, 89% yield | [N+](=O)([O-])C1=CC(=CC2=C(C=C(C=C12)NC(C(F)(F)F)=O)[N+](=O)[O-])NC(C(F)(F)F)=O | C14H6F6N4O6
